US07456163B2
Step Five: Preparation of {4-(3-Allyloxy-5-fluoro-phenyl)-3-[4-(allyl-propyl-carbamoyl)-butyrylamino]-2-hydroxy-butyl}-(3-ethyl-benzyl)-carbamic acid benzyl ester
A solution of [4-(3-Allyloxy-5-fluoro-phenyl)-3-tert-butoxycarbonylamino-2-hydroxy-butyl]-(3-ethyl-benzyl)-carbamic acid benzyl ester (1.84 g, 3.03 mmol) in 20% TFA/DCM (30 mL) is prepared and stirred for 1 hour. The reaction mixture is concentrated in vacuo yielding a white solid (2.12 g). Peptide coupling is performed by preparing a solution of 4-(allyl-propyl-carbamoyl)-butyric acid (0.060 g, 2.82 mmol) in CH2Cl2 to which is added EDC (0.74 g, 3.84 mmol) and HOBT (0.52 g, 3.84 mmol) under N2, with stirring. To this solution is added a solution of TEA (1.43 mL, 10.24 mmol), 1-(3-Allyloxy-5-fluoro-benzyl)-3-[benzyloxycarbonyl-(3-ethyl-benzyl)-amino]-2-hydroxy-propyl-ammonium trifluoro-acetate (1.59 g, 2.56 mmol) dissolved in CH2Cl2 (15 mL). Upon complete reaction the mixture is diluted with EtOAc, washed with NaHCO3 and then 1N HCl. The mixture is then neutralized with NaHCO3, and then 0.5N NaOH, treated with activated charcoal, dried with MgSO4, filtered, concentrated in vacuo, yielding a yellow oil. Purification is achieved via flash chromatography using 75% EtOAc/Hexanes. Calculated mass for C41H52FN3O6+H1: 702.3918. Accurate mass found for C41H52FN3O6+H1: 702.3916.

reactant | 4-(allyl-propyl-carbamoyl)-butyric acid | 2.82 mmol, 0.060 g | C(C=C)N(C(=O)CCCC(=O)O)CCC | C11H19NO3
reactant | EDC | 3.84 mmol, 0.74 g
reactant | HOBT | 3.84 mmol, 0.52 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-Allyloxy-5-fluoro-benzyl)-3-[benzyloxycarbonyl-(3-ethyl-benzyl)-amino]-2-hydroxy-propyl-ammonium trifluoro-acetate | 2.56 mmol, 1.59 g | FC(C(=O)[O-])(F)F.C(C=C)OC=1C=C(CC(C(CN(CC2=CC(=CC=C2)CC)C(=O)OCC2=CC=CC=C2)O)[NH3+])C=C(C1)F
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-(3-Allyloxy-5-fluoro-phenyl)-3-[4-(allyl-propyl-carbamoyl)-butyrylamino]-2-hydroxy-butyl}-(3-ethyl-benzyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC1=CC(=CC=C1)CC)CC(C(CC1=CC(=CC(=C1)F)OCC=C)NC(CCCC(N(CCC)CC=C)=O)=O)O)=O | C41H52FN3O6
